US07223764B2
1-[2-(5-Fluorobenzimidazol-2-ylthio)ethyl]-4-formylpiperazine (1.80 g, 5.8 mmol) was dissolved in methanol (20 mL), 12N hydrochloric acid (2 mL) was added thereto, followed by stirring for 18 hours at room temperature. The reaction mixture was concentrated under reduced pressure, and saturated ammonia-methanol was added thereto, followed by stirring for five minutes at room temperature. The solvent was removed under reduced pressure, and the residue was purified through silica gel column chromatography (chloroform: saturated ammonia-methanol=100:3), to thereby yield 1-[2-(5-fluorobenzimidazol-2-ylthio)ethyl]piperazine (1.33 g, yield 81%) as a brown oil.

reactant | 1-[2-(5-Fluorobenzimidazol-2-ylthio)ethyl]-4-formylpiperazine | 5.8 mmol, 1.80 g | FC1=CC2=C(N=C(N2)SCCN2CCN(CC2)C=O)C=C1 | C14H17FN4OS
reactant | hydrochloric acid | 12N, 2 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 1-[2-(5-fluorobenzimidazol-2-ylthio)ethyl]piperazine | 1.33 g, yield 81% | FC1=CC2=C(N=C(N2)SCCN2CCNCC2)C=C1 | C13H17FN4S
